US04464365
1.6 g of 11β-chloro-15α-hydroxy-18-methyl-4-estrene-3,17-dione in 5 ml of pyridine is stirred at room temperature under argon with 1.2 ml of acetic anhydride. After 18 hours, the solution is introduced into hydrochloric-acid-containing ice/water. The thus-precipitated product is vacuum-filtered, dissolved in ethyl acetate, and washed with water. Recrystallization of the crude product from isopropyl ether yields 1.0 g of 15α-acetoxy-11α-chloro-18-methyl-4-estrene-3,17-dione, mp 125.0° C.

reactant | 11β-chloro-15α-hydroxy-18-methyl-4-estrene-3,17-dione | 1.6 g | Cl[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2[C@H](CC([C@@]2(CC)C1)=O)O)=O | C19H25ClO3
reactant | acetic anhydride | 1.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric-acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 15α-acetoxy-11α-chloro-18-methyl-4-estrene-3,17-dione | 1.0 g | C(C)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1[C@@H](C2)Cl)=O)=O | C21H27ClO4
